US06001837
Preparation of 2-((4-cyclohexyl)piperazin-1-yl)acetic acid potassium salt hydrate
The title compound was prepared by first cooling 2-((4-cyclohexyl)piperazin-1-yl)acetic acid potassium salt to a temperature between -8° C. and -15° C. in 5 volumes of anhydrous methylene chloride. To this su e was added isobutyichioroformate at a rate such that the temperature did not exceed -8° C. The resulting reaction mixture was stirred for about 1 hour, the temperature being maintained between -8° C. and -15° C.

reactant | 2-((4-cyclohexyl)piperazin-1-yl)acetic acid potassium salt | [K+].C1CCC(CC1)C1N(CCNC1)CC(=O)[O-]
reactant | isobutyichioroformate | C(C(C)C)OC(=O)Cl | C5H9ClO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-((4-cyclohexyl)piperazin-1-yl)acetic acid potassium salt hydrate | O.[K+].C1CCC(CC1)C1N(CCNC1)CC(=O)[O-] | InChI=1S/C12H22N2O2.K.H2O/c15-12(16)9-14-7-6-13-8-11(14)10-4-2-1-3-5-10;;/h10-11,13H,1-9H2,(H,15,16);;1H2/q;+1;/p-1
